US09326987B2
{5-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methanol
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (25 mg, 0.051 mmol), cyclohexylmethanol (17.48 mg, 0.153 mmol) and potassium carbonate (21.16 mg, 0.153 mmol) were placed in N-methyl-2-pyrrolidone (1 ml) and the mixture heated under microwave irradiation at 100° C. for 20 mins. Additional cyclohexylmethanol (17.48 mg, 0.153 mmol) was added and the mixture heated at 110° C. for 20 mins, followed by 110° C. for a further 20 mins. The solvent was removed and the residue purified by Mass Directed Automated Preparative HPLC to give the title compound as a white solid (5 mg).

reactant | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.051 mmol, 25 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | cyclohexylmethanol | 0.153 mmol, 17.48 mg | C1(CCCCC1)CO | C7H14O
reactant | potassium carbonate | 0.153 mmol, 21.16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexylmethanol | 0.153 mmol, 17.48 mg | C1(CCCCC1)CO | C7H14O
solvent | N-methyl-2-pyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | {5-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methanol | 5 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C1=NN=C(O1)CO | C18H13N5O2
